US08865623B2
To a mixture of rac-3-(5-bromo-2-ethylphenyl)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione (0.175 g, 0.48 mmol), cesium carbonate (0.314 g, 0.96 mmol) and 2,4-dichlorophenol (0.393 g, 2.41 mmol) is added copper (II) trifluoromethanesulfonate (0.009 g, 0.024 mmol) and powdered 3 Å molecular sieves (0.200 g). Degassed anhydrous toluene (2 ml) is then added, followed by purging with nitrogen and heating at 170° C. for 1 hour under microwave irradiation. After cooling to room temperature the reaction mixture is quenched with 2M aqueous hydrochloric acid and extracted with dichloromethane (×2). The organic phase is separated and concentrated under reduced pressure. The crude product is then purified by preparative reverse phase HPLC to afford rac-(1S,5R)-3-[5-(2,4-dichlorophenoxy)-2-ethylphenyl]-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione.

reactant | rac-3-(5-bromo-2-ethylphenyl)-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | 0.48 mmol, 0.175 g | BrC=1C=CC(=C(C1)C1C(C2(CCC(C1=O)C2(C)C)C)=O)CC | C19H23BrO2
reactant | cesium carbonate | 0.96 mmol, 0.314 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,4-dichlorophenol | 2.41 mmol, 0.393 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
catalyst | copper (II) trifluoromethanesulfonate | 0.024 mmol, 0.009 g | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | rac-(1S,5R)-3-[5-(2,4-dichlorophenoxy)-2-ethylphenyl]-1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | ClC1=C(OC=2C=CC(=C(C2)C2C(C3(CCC(C2=O)C3(C)C)C)=O)CC)C=CC(=C1)Cl | C25H26Cl2O3
